US06825208B2
4-amino-benzamidine mono HCl salt (120 mg, 0.7 mmole) was suspended in acetonitrile (4 mL). The suspension was treated with 4-(5-Benzyloxy-2-formyl-4-methoxy-phenoxy)-benzoic acid methyl ester (274 mg, 0.7 mmole) and indene (162 mg, 1.4 mmole). Indium triflate (79 mg, 0.14 mmole) was added and the reaction was heated at 75° C. for 18 hours to give 4-[5-Benzyloxy-2-(2-carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-4-methoxy-phenoxy]-benzoic acid methyl ester which was purified by column chromatography (10%methanol in ethyl acetate).

reactant | 4-amino-benzamidine mono HCl salt | 0.7 mmole, 120 mg | Cl.NC1=CC=C(C(=N)N)C=C1
reactant | 4-(5-Benzyloxy-2-formyl-4-methoxy-phenoxy)-benzoic acid methyl ester | 0.7 mmole, 274 mg | COC(C1=CC=C(C=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C=O)=O | C23H20O6
reactant | indene | 1.4 mmole, 162 mg | C1C=CC2=CC=CC=C12 | C9H8
reactant | Indium triflate | 0.14 mmole, 79 mg | [O-]S(=O)(=O)C(F)(F)F.[In+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 4-[5-Benzyloxy-2-(2-carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-4-methoxy-phenoxy]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C1NC2=CC=C(C=C2C2C1CC1=CC=CC=C12)C(N)=N)=O | C39H35N3O5
